US05688803
7,8-Dimethyl-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione
3.88 g (0.012 mol) of ethyl 2-hydroxy-7,8-dimethylquinazoline-4-yl-carbazate in 220 ml of dimethylformamide were boiled under reflux for 2 hrs. The reaction mixture was cooled to room temperature and then poured on to ice-water. The precipitate was filtered off and dried in a vacuum. There were obtained white crystals which were recrystallized from dimethylformamide. Yield: 1.62 g (50%) of 7,8-dimethyl-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione as yellowish crystals; m.p. 380°-382° C.

reactant | ethyl 2-hydroxy-7,8-dimethylquinazoline-4-yl-carbazate | 0.012 mol, 3.88 g | OC1=NC2=C(C(=CC=C2C(=N1)N(C(=O)OCC)N)C)C | C13H16N4O3
reactant | dimethylformamide | 220 ml | CN(C=O)C | C3H7NO
product | 7,8-Dimethyl-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione | CC1=C(C=CC=2C=3N(C(NC12)=O)C(NN3)=O)C | C11H10N4O2
